US08802697B2
Synthesis of 2-amino-5-bromo-3-fluorobenzoic acid
A solution of 2-amino-3-fluorobenzoic acid (10.85 g, 70 mmol) in dichloromethane (175 mL) was added N-bromosuccinimide (12.46 g, 70 mmol), and the mixture was stirred at RT for 2 h. LCMS showed the reaction was completed. The precipitate was filtered and washed with dichloromethane (100 mL*3) to give the title compound (12.7 g, 78%) as a grey solid, which was directly used in the next step without further purification. MS (ES+) C7H5BrFNO2 requires: 233, 235. found: 232, 234 [M−H]−.

reactant | 2-amino-3-fluorobenzoic acid | 70 mmol, 10.85 g | NC1=C(C(=O)O)C=CC=C1F | C7H6FNO2
reactant | N-bromosuccinimide | 70 mmol, 12.46 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 175 mL | ClCCl | CH2Cl2
product | 2-amino-5-bromo-3-fluorobenzoic acid | 12.7 g, 78% | NC1=C(C(=O)O)C=C(C=C1F)Br | C7H5BrFNO2
